*TB_SUN_TR_SKY130NM/TB_NCM
*----------------------------------------------------------------
* Include
*----------------------------------------------------------------
#ifdef Lay
.include ../../../work/lpe/oscillator_tb_lpe.spi
#else
.include ../../../work/xsch/oscillator_tb.spice
#endif

*-----------------------------------------------------------------
* OPTIONS
*-----------------------------------------------------------------
.option TNOM=27 GMIN=1e-15 reltol=1e-3

*-----------------------------------------------------------------
* PARAMETERS
*-----------------------------------------------------------------
.param TRF = 10p
.param vdda = 1.8
.param AVDD = {vdda}


.param TAMB = 27
.temp {TAMB}

*-----------------------------------------------------------------
* FORCE
*-----------------------------------------------------------------
VSS  VSS  0     dc 0
VDD_1V8  VDD_1V8  VSS  dc 1.8

*-----------------------------------------------------------------
* STARTUP/SHUTDOWN
*-----------------------------------------------------------------

* Slow startup and shutdown after 2us (for power consumption testing)
*VPWR  PWRUP_1V8  VSS  pwl 0 0 {t_start} 0 {{t_start}+0.5u} 0 {{t_start}+0.6u} {AVDD} {{t_start}+3u} {AVDD} {{t_start}+3.1u} 0
*VPWRN  PWRUP_N_1V8  VSS  pwl 0 {AVDD} {{t_start}+0.5u} {AVDD} {{t_start}+0.6u} {0} {{t_start}+3u} {0} {{t_start}+3.1u} {AVDD}

* Normal operation
VPWR  PWRUP_1V8  VSS  pwl 0 0 {t_start} 0 {{t_start}+10p} {AVDD}
VPWRN  PWRUP_N_1V8  VSS  pwl 0 {AVDD} {t_start} {AVDD} {{t_start}+10p} {0}


*-----------------------------------------------------------------
* DUT
*-----------------------------------------------------------------
.include ../xdut.spi

*----------------------------------------------------------------
* PROBE
*----------------------------------------------------------------
.options savecurrents
.save all
*----------------------------------------------------------------
* NGSPICE control
*----------------------------------------------------------------
.control
set num_threads=16
set color0=white
set color1=black
unset askquit

*op
optran 0 0 0 1n 1u 0
tran 0.5n 4u 1p
write

echo 'Temp ; Freq' > {cicname}_oscillator.csv

set temp_stop = 125
set temp_step = 5
set temp_val = -40
while $temp_val le $temp_stop
  set temp = $temp_val

	tran 0.15n 6.5u
	*write {cicname}_temp_{$temp_val}.raw

	* Average frequency over all complete periods (skip first for startup)
	meas tran t_first WHEN v(vout_osc)=0.9 RISE=2
	let t_last = t_first
	let nperiods = 0
	set nsweep = 0
	while $nsweep le 1000
	  let td_val = t_last + 1e-12
	  let t_check = -1
	  meas tran t_check WHEN v(vout_osc)=0.9 RISE=1 TD=$&td_val
	  if $&t_check > $&t_last
	    let t_last = t_check
	    let nperiods = nperiods + 1
	    let ns_next = $nsweep + 1
	    set nsweep = "$&ns_next"
	  else
	    set nsweep = 1001
	  end
	end
	if $&nperiods > 0
	  let Freq = nperiods / (t_last - t_first)
	else
	  let Freq = 0
	end
	echo Temp = $temp_val C  freq = $&Freq Hz  (averaged over $&nperiods periods)
	echo '$temp_val ; $&Freq' >> {cicname}_oscillator.csv

	destroy all
	let temp_next = $temp_val + $temp_step
	set temp_val = "$&temp_next"
end

quit


.endc

.end
